US04182832
1,4-Diamino-2-(p-chlorophenyl)-3-(p-methoxyphenyl)-butane
21.14 g (0.054 mol) of N,N'-diacetyl-1,4-diamino-2-(p-chlorophenyl)-3-(p-methoxyphenyl)-butane in 80 ml of 15% strength aqueous sodium hydroxide solution are heated to 200° C. in an autoclave for 12 hours. After cooling, the mixture is extracted with chloroform and the organic phase is washed with water and then evaporated in a rotary evaporator. Yield of crude product: 13.2 g (79.6% of theory) of a crystalline product. For purification, this product is recrystallised from 200 ml of cyclohexane, then filtered off, washed with cyclohexane and dried in vacuo at 60° C. Yield: 11.55 g (69.6% of theory); melting point: 124°-127° C.

reactant | N,N'-diacetyl-1,4-diamino-2-(p-chlorophenyl)-3-(p-methoxyphenyl)-butane | 0.054 mol, 21.14 g | C(C)(=O)NCC(C(CNC(C)=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)Cl | C21H25ClN2O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 1,4-Diamino-2-(p-chlorophenyl)-3-(p-methoxyphenyl)-butane | NCC(C(CN)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)Cl | C17H21ClN2O
